US05780642
A mixture of 5-chloroindanone (10.2 g, supplied by Lancaster Chemicals) and 1-(3-aminopropyl)imidazole (7.62 g) was heated at 90° C., while bubbling nitrogen through the molten mixture, for 2 hours. The mixture was cooled and dissolved in absolute ethanol (140 ml). Sodium borohydride (4.63 g) was added to the solution and the mixture boiled under reflux for 7 hours. The solvent was removed under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate to give an oil which was dissolved in ether and filtered. The filtrate was treated with ethereal hydrogen chloride to give a solid which was collected and recrystallised from propan-2-ol/ethanol/water (150 ml/150 ml/trace) (with a charcoal hot filtration) to give N-(5-chloroindan-1-yl)-3-(imidazol-1-yl)propylamine dihydrochloride, m.p. 251°-254° C.

reactant | 5-chloroindanone | 10.2 g | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | 1-(3-aminopropyl)imidazole | 7.62 g | NCCCN1C=NC=C1 | C6H11N3
solvent | ether | CCOCC | C4H10O
product | N-(5-chloroindan-1-yl)-3-(imidazol-1-yl)propylamine dihydrochloride | Cl.Cl.ClC=1C=C2CCC(C2=CC1)NCCCN1C=NC=C1 | InChI=1S/C15H18ClN3.2ClH/c16-13-3-4-14-12(10-13)2-5-15(14)18-6-1-8-19-9-7-17-11-19;;/h3-4,7,9-11,15,18H,1-2,5-6,8H2;2*1H
